US09085540B2
A mixture of 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (300 mg), [(2R)-1-benzylpyrrolidin-2-yl]methanol (251 mg), 18-crown-6 (346 mg), potassium t-butoxide (147 mg), and dioxane (3 mL) was stirred at 100° C. for 5 hours. To the mixture were added water and ethyl acetate, followed by liquid separation. The organic phase was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH2 type: eluent; ethyl acetate:chloroform=1:1) to obtain 5-{[(2R)-1-benzylpyrrolidin-2-yl]methoxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (201 mg) as a yellow solid.

reactant | 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 300 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C23H32ClN7O
reactant | [(2R)-1-benzylpyrrolidin-2-yl]methanol | 251 mg | C(C1=CC=CC=C1)N1[C@H](CCC1)CO | C12H17NO
reactant | 18-crown-6 | 346 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium t-butoxide | 147 mg | CC(C)([O-])C.[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-{[(2R)-1-benzylpyrrolidin-2-yl]methoxy}-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 201 mg | C(C1=CC=CC=C1)N1[C@H](CCC1)COC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C35H48N8O2
